US04515791
6-(m-Aminophenyl)-2,7-dimethyl-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one
A mixture of 5.0 g of 2,7-dimethyl-6-(m-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one, 50 ml. of trifluoroacetic acid and a catalytic amount of 10% palladium on carbon are shaken in a Parr bottle under 40 lb. pressure of hydrogen for 2 hours and then filtered. The filtrate is concentrated in vacuo to an oil which is dissolved in 50 ml. of water and adjusted to pH 4.7 with 5N sodium hydroxide. The resulting solid is collected by filtration and air dried, giving 3.6 g. of the desired product as a green solid, m.p. 192°-195° C.

reactant | 2,7-dimethyl-6-(m-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | 5.0 g | CN1N=C2N(N=C(C(=C2)C)C2=CC(=CC=C2)[N+](=O)[O-])C1=O | C13H11N5O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | 6-(m-Aminophenyl)-2,7-dimethyl-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | NC=1C=C(C=CC1)C=1C(=CC=2N(N1)C(N(N2)C)=O)C | C13H13N5O
